US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(3-aminophenyl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 397, starting from 2-[(S)-1-Phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine and 3-aminophenyl boronic acid. Mass spectrum (ESI) 407.2 (M+1)

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)I | C19H16IN5
reactant | 3-aminophenyl boronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | 2-[(S)-1-Phenylethylamino]-4-[5-(3-aminophenyl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC(=CC=C2)N | C25H22N6
